US04920119
A solution of 500 mg of 7-(4-allyloxy-3-cyanophenyl)isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one and 200 mg of N-methylmorpholine N-oxide in 15 ml of dimethylformamide and 5 ml of water was treated with 1.75 ml of a 0.4% solution of osmium tetroxide in water. The mixture was stirred at room temperature for 7 days and then a solution of 220 mg of sodium dithionite in 5 ml of water was added. The solvent was removed by evaporation and the residue was extracted with hot ethyl acetate, filtered and the filtrate was evaporated. Recrystallization of the residue from acetic acid yielded 160 mg of 7-[3-cyano-4-(2,3-dihydroxypropoxy)phenyl]isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one as a white solid of melting point 195° C. (dec.).

reactant | 7-(4-allyloxy-3-cyanophenyl)isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one | 500 mg | C(C=C)OC1=C(C=C(C=C1)C1=NSC2=C1N=NNC2=O)C#N | C14H9N5O2S
reactant | N-methylmorpholine N-oxide | 200 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium dithionite | 220 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 7-[3-cyano-4-(2,3-dihydroxypropoxy)phenyl]isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one | 160 mg | C(#N)C=1C=C(C=CC1OCC(CO)O)C1=NSC2=C1N=NNC2=O | C14H11N5O4S
